US08809538B2
tert-Butyl 4-((4-amino-5-cyano-6-ethoxypicolinamido)methyl)piperidine-1-carboxylate
To a solution of 4-amino-5-cyano-6-ethoxypicolinic acid (193 mg) in dichloromethane (4 mL) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (215 mg), 1-hydroxybenzotriazole hydrate (164 mg), and diisopropylethylamine (813 μL). The mixture was stirred at room temperature for 5 minutes and then tert-butyl 4-(aminomethyl)piperidine-1-carboxylate (200 mg) was added. The reaction mixture was stirred at room temperature for 16 hours. The organic phase was diluted with ethyl acetate, washed with a saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:1) to obtain the title compound (252 mg) having the following physical data.

reactant | 4-amino-5-cyano-6-ethoxypicolinic acid | 193 mg | NC1=CC(=NC(=C1C#N)OCC)C(=O)O | C9H9N3O3
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 215 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 164 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 813 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate | 200 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-((4-amino-5-cyano-6-ethoxypicolinamido)methyl)piperidine-1-carboxylate | 252 mg | NC1=CC(=NC(=C1C#N)OCC)C(=O)NCC1CCN(CC1)C(=O)OC(C)(C)C | C20H29N5O4
